US09035058B2
Synthesis of 1-(5-bromopentyl)-1-methylpiperidin-1-ium bromide
A solution of 1-methylpiperidine (˜26.04 g) in dimethylformamide (˜250 mL) was added slowly to a solution of 1,5-dibromopentane (˜226.3 g) in dimethylformamide (˜50 mL) with rapid stirring. Stirring of the solution was continued overnight. The reaction mixture was then poured into diethyl ether (˜1500 mL) producing a yellow oil. The diethyl ether was decanted and the oil poured into a solution of fresh diethyl ether (˜1500 mL) with acetone (˜250 mL) and then stirred overnight. The resulting waxy solid was filtered. After drying the product (˜51.8 g, ˜60%) was confirmed to be 1-(5-bromopentyl)-1-methylpiperidin-1-ium bromide by 1H NMR.

reactant | 1-methylpiperidine | ˜26.04 g | CN1CCCCC1 | C6H13N
reactant | 1,5-dibromopentane | ˜226.3 g | BrCCCCCBr | C5H10Br2
reactant | diethyl ether | ˜1500 mL | C(C)OCC | C4H10O
solvent | dimethylformamide | ˜250 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | ˜50 mL | CN(C=O)C | C3H7NO
product | 1-(5-bromopentyl)-1-methylpiperidin-1-ium bromide | [Br-].BrCCCCC[N+]1(CCCCC1)C | InChI=1S/C11H23BrN.BrH/c1-13(9-5-2-4-8-12)10-6-3-7-11-13;/h2-11H2,1H3;1H/q+1;/p-1
